US07125898B2
N-Cyclopropyl-5-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzamide (3.2 g), methyl 6-chloronicotinate (1.73 g), tetrakis(triphenylphosphine)palladium (210 mg) and aqueous sodium hydrogen carbonate (1M, 30 ml) were mixed in propan-2-ol (100 ml) and heated at 90° C. for 18 hours. The reaction was allowed to cool and the propan-2-ol removed under vacuum. The residue was partitioned between ethyl acetate and aqueous sodiumhydrogen carbonate (1M). The aqueous phase was acidified with hydrochloric acid (2N) and extracted with ethyl acetate (×2). The organic extracts were washed with brine, dried (magnesium sulphate) and reduced to dryness under vacuum. The resulting foam was triturated with ether to give 6-{5-[(cyclopropylamino)carbonyl]-3-fluoro-2-methylphenyl}nicotinic acid as a solid.

reactant | N-Cyclopropyl-5-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzamide | 3.2 g | C1(CC1)NC(C1=CC(=C(C(=C1)F)C)B1OC(C(O1)(C)C)(C)C)=O | C17H23BFNO3
reactant | methyl 6-chloronicotinate | 1.73 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | sodium hydrogen carbonate | 1M, 30 ml | C(O)([O-])=O.[Na+]
solvent | propan-2-ol | 100 ml | CC(C)O | C3H8O
catalyst | tetrakis(triphenylphosphine)palladium | 210 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{5-[(cyclopropylamino)carbonyl]-3-fluoro-2-methylphenyl}nicotinic acid | C1(CC1)NC(=O)C=1C=C(C(=C(C1)C1=NC=C(C(=O)O)C=C1)C)F | C17H15FN2O3
